US09120749B2
(6-(3-chloro-5-fluoro-4-hydroxyphenyl)-4-(6-(piperazin-1-yl)pyridin-3-ylamino)quinolin-3-yl)(cyclopropyl)methanone
Following general procedure F, tert-butyl 4-(5-(6-bromo-3-(cyclopropanecarbonyl)quinolin-4-ylamino)pyridin-2-yl)piperazine-1-carboxylate (8.4 g, 15 mmol) was reacted with 2-chloro-6-fluoro-4-(4,4,5,5-tetramethyl-1,3,2-dioxaborolan-2-yl)phenol (5.0 g, 18 mmol) to obtain the protected intermediate which was subjected to general procedure A-2 to afford the desired product (3.9 g, 53% over 2 steps) as a yellow/orange solid: 1H NMR (300 MHz, MeOD) δ 9.26 (s, 1H), 8.07 (d, J=2.8 Hz, 1H), 7.89 (s, 2H), 7.75 (s, 1H), 7.47 (dd, J=9.0, 2.8 Hz, 1H), 7.02 (s, 1H), 6.96 (d, J=9.0 Hz, 1H), 6.84 (dd, J=12.2, 2.4 Hz, 1H), 3.72 (t, J=5.2 Hz, 5H), 3.12 (t, J=5.2 Hz, 5H), 2.92 (m, 1H), 1.22 (m, 2H), 1.12 (m, 2H); ESI MS m/z 518 [C28H25ClFN5O2+H]+; HPLC 98.7% (AUC), tR=8.67 min.

reactant | tert-butyl 4-(5-(6-bromo-3-(cyclopropanecarbonyl)quinolin-4-ylamino)pyridin-2-yl)piperazine-1-carboxylate | 15 mmol, 8.4 g | BrC=1C=C2C(=C(C=NC2=CC1)C(=O)C1CC1)NC=1C=CC(=NC1)N1CCN(CC1)C(=O)OC(C)(C)C | C27H30BrN5O3
reactant | 2-chloro-6-fluoro-4-(4,4,5,5-tetramethyl-1,3,2-dioxaborolan-2-yl)phenol | 18 mmol, 5.0 g | ClC1=C(C(=CC(=C1)B1OC(C(O1)(C)C)(C)C)F)O | C12H15BClFO3
product | (6-(3-chloro-5-fluoro-4-hydroxyphenyl)-4-(6-(piperazin-1-yl)pyridin-3-ylamino)quinolin-3-yl)(cyclopropyl)methanone | 3.9 g, 53% | ClC=1C=C(C=C(C1O)F)C=1C=C2C(=C(C=NC2=CC1)C(=O)C1CC1)NC=1C=NC(=CC1)N1CCNCC1 | C28H25ClFN5O2
